US06849657B2
To a solution of {4-[(R)-2-((E)-(S)-3-hydroxy-oct-1-enyl)-5-oxo-pyrrolidin-1-yl]-butoxy}-acetic acid methyl ester (0.14 g, 0.4 mmol) in a mixture of 2 mL of methanol and 2 mL THF at room temperature under a nitrogen atmosphere was added an aqueous solution of lithium hydroxide (0.066 g, 1.6 mmol) in 1 mL of water. The reaction was stirred at 45° C. overnight, cooled to room temperature and treated with aqueous hydrochloric acid (1 M) until acidic. The residue was diluted with water (10 mL) and extracted with ethyl acetate. The organic solution was dried (brine, Na2SO4), evaporated and purified by chromatography to yield 28 mg of {4-[(R)-2-((E)-(S)-3-hydroxy-oct-1-enyl)-5-oxo-pyrrolidin-1-yl]-butoxy}-acetic acid; ESMS: m/z (M+) 341.

reactant | {4-[(R)-2-((E)-(S)-3-hydroxy-oct-1-enyl)-5-oxo-pyrrolidin-1-yl]-butoxy}-acetic acid methyl ester | 0.4 mmol, 0.14 g | COC(COCCCCN1[C@H](CCC1=O)\C=C\[C@H](CCCCC)O)=O | C19H33NO5
reactant | lithium hydroxide | 1.6 mmol, 0.066 g | [OH-].[Li+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | {4-[(R)-2-((E)-(S)-3-hydroxy-oct-1-enyl)-5-oxo-pyrrolidin-1-yl]-butoxy}-acetic acid | 28 mg | O[C@H](/C=C/[C@@H]1N(C(CC1)=O)CCCCOCC(=O)O)CCCCC | C18H31NO5
